Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
latex
 
Attending: ___
 
Chief Complaint:
Traumatic brain injury

 
Major Surgical or Invasive Procedure:
___ - Left craniectomy and right EVD placement 
___ - Right chest tube placement
___ - Left chest tube placement
___ - Right EVD removal
___ - Right EVD placement
___ - Tracheostomy
___ - PEG tube placement
___ - Intermaxillary fixation
___ - Removal of chest tubes
___ - Right EVD replacement
___ - Left cranioplasty
___ - Right EVD removal

 
History of Present Illness:
___ is a ___ year old male who presented to the 
Emergency Department on ___ as a transfer from an outside 
facility status post fall approximately 25 feet from a 
scaffolding. CT of the head at the outside facility revealed 
multiple areas of acute extra-axial, subarachnoid, 
intraparenchymal, and intraventricular hemorrhage with cerebral 
compression as well as multiple skull and facial fractures. 
Patient was transferred to ___ 
for further evaluation and management.  
 
Past Medical History:
- asthma
- opioid abuse
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
On Admission:
-------------
General:

___ Coma Scale At The Scene: 4

___ Coma Scale Upon Neurosurgical Evaluation: 6T

Airway: [x]Intubated [ ]Not intubated

Eye Opening: 
[x]1 Does not open eyes

Verbal:
[x]1 Makes no sounds

Motor:
___ Flexion/withdrawal to painful stimuli 

Physical Exam:

General: Well nourished male. Intubated, sedated, unresponsive.
Head, Eyes, Ears, Nose Throat: Open left temporal skull fracture 
without obvious brain matter visible, however there is 
disruption of the galea. 
Extremities: Warm and well perfused.

Neurologic:

Mental Status: Intubated, sedated, unresponsive.
Orientation: Unable to assess, patient intubated, sedated, 
unresponsive.
Language: Unable to assess, patient intubated, sedated, 
unresponsive.

If Intubated:
[ ]Cough [ ]Gag [x]Over breathing the ventilator

Cranial Nerves:
I: Not tested.
II: Right pupil 3mm and minimally reactive to light. Left pupil 
5mm and nonreactive to light.
III, IV, VI: Unable to assess, patient intubated, sedated, 
unresponsive.
V, VII: Unable to assess, patient intubated, sedated, 
unresponsive.
VIII: Unable to assess, patient intubated, sedated, 
unresponsive.
IX, X: Unable to assess, patient intubated, sedated, 
unresponsive.
XI: Unable to assess, patient intubated, sedated, unresponsive.
XII: Unable to assess, patient intubated, sedated, unresponsive.

Motor: Off sedation. Right upper extremity withdraws to noxious. 
Minimal to no movement of the right lower extremity. Moves left 
upper and lower extremities spontaneously.

On Discharge:
-------------
General:

Vital Signs: T 99.4F, HR 99, BP 143/63, RR 17, O2Sat 99% 
tracheostomy mask

Exam:

Opens Eyes: [ ]Spontaneous [x]To voice - Right eye opens, left
does not [ ]To noxious
Orientation: [ ]Person [ ]Place [ ]Time [x]None
Follows Commands: [ ]Simple [ ]Complex [x]None
Pupils: Right pupil round, reactive to light. Left pupil round,
nonreactive to light.

Motor: Right upper extremity briskly withdraws to noxious. Right
lower extremity moves spontaneously, briskly withdraws to
noxious. Left upper and lower extremities move spontaneously and
purposefully, grossly full strength.

Surgical Incision: 
[x]Clean, dry, intact 
[x]Sutures 
[x]Staples
 
Pertinent Results:
Please see OMR for relevant laboratory and imaging results.

 
Brief Hospital Course:
___ year old male with a traumatic brain injury. Patient's 
injuries included multiple areas of acute extra-axial, 
subarachnoid, intraparenchymal, and intraventricular hemorrhage 
with cerebral compression, multiple skull and facial fractures, 
left clavicular fracture, multiple rib fractures, pulmonary 
contusion, and hemothorax.

#Traumatic Brain Injury
Patient was taken to the operating room on ___ for a left 
craniectomy and right EVD placement. Please see operative report 
by Dr. ___ further details. Patient was transferred 
back to the Trauma Intensive Care Unit. The patient's neurologic 
exam waxed and waned throughout his hospitalization. Patient had 
a progressive return of spontaneous movement on the left side 
without significant progression on the right. Right EVD placed 
in the operating room was subsequently removed on ___. CT 
of the head on ___ showed external hydrocephalus, and the 
right EVD was replaced. CT of the head on ___ showed 
improvement in the patient's external hydrocephalus. Patient 
returned to the operating room on ___ for a left 
cranioplasty. Please see operative report by Dr. ___ 
further details. A subgaleal drain was left in place and 
subsequently removed on postoperative day two. The right EVD was 
raised over the course of several days after the left 
cranioplasty, intracranial pressures remained within expected 
limits. The right EVD was clamped on ___, and the patient's 
intracranial pressures remained stable. CT of the head on 
___ was stable and the right EVD was removed. The patient 
was started on sodium tablets during this hospitalization for 
management of sodium, which continue to be weaned as tolerated. 
The patient was transferred to the floor on ___. On 
___ the patient's neurologic exam was stable. He was 
afebrile with stable vital signs, tolerating activity with 
assistance, tolerating his continuous tube feedings, voiding 
without difficulty, and his pain was well controlled on enteral 
pain medications. Patient was discharged to ___ 
___ on ___ in stable condition.

#Multiple Skull and Facial Fractures
Plastic Surgery was consulted, and the patient underwent 
intermaxillary fixation.

#Left Clavicular Fracture
Left clavicular fracture was nonoperable.

#Respiratory
Patient had progressive hypoxia on admission and had bilateral 
chest tubes placed on ___. All chest tubes were 
subsequently removed. Patient underwent tracheostomy on ___ 
due to prolonged intubation and was subsequently weaned to a 
tracheostomy mask. The patient had multiple bronchoscopies 
during this hospitalization and was treated for a ventilator 
associated pneumonia with cefepime and vancomycin. The patient 
was noted to be tachypneic to the high ___ and low ___. A CTA of 
the chest showed no evidence of pulmonary embolism. A chest 
x-ray was ordered, which showed bilateral pulmonary effusions, 
which were stable compared to prior imaging. The patient's 
respiratory status continued to improve throughout his 
hospitalization.

#Nutrition
Patient underwent PEG tube placement on ___ due to 
prolonged intubation. Nutrition was consulted for tube feeding 
recommendations. The patient tolerated advancement of his 
continuous tube feedings to goal. 

#Right Upper Extremity Thomboses
Patient was found to have a nonocclusive right brachial, basilic 
thrombus as well as an occlusive right cephalic thrombus. 
Vascular Surgery consulted for question of a superior vena cava 
filter, however they recommended conservative treatment. 

#Loose Stools
Patient had an increase in diarrhea during this hospitalization 
and was diagnosed with Clostridium difficile colitis. A rectal 
tube was placed. Vancomycin was started and patient completed 
the course on ___. Repeat stool sample was negative for 
Clostridium difficile on ___. Patient continued to have 
loose stools. Nutrition was consulted and recommended adding 
banana flakes.

#Buttock Rash
Antifungal cream was started for a rash on the patient's 
buttocks.

#Elevated Phosphorus
Nutrition was consulted and recommended adding Tums for elevated 
phosphorus. 

#Anemia
Patient's hemoglobin and hematocrit were monitored closely. They 
were both low, but remained stable. 

#Elevated PTT
The patient's PTT was consistently elevated and subcutaneous 
heparin was held. 

#Disposition
Physical Therapy and Occupational Therapy were both consulted, 
and both recommended discharge to rehabilitation.
 
Medications on Admission:
This Preadmission Medication List may be inaccurate and requires 
further investigation.
1. buprenorphine-naloxone (8mg-2mg) one tablet sublingual twice 
daily 
 
Discharge Medications:
1. Acetaminophen (Liquid) 325-650 mg PO Q6H:PRN Pain - Mild 
Please do not take more than 3000mg in 24 hours.  
2. Calcium Carbonate 500 mg PO QID  
3. Famotidine 20 mg PO BID  
4. Ketoconazole 2%  1 Appl TP BID Duration: 28 Doses  
5. Labetalol 200 mg PO BID 
Hold for HR < 55 or SBP < 90.  
6. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate  
7. Ramelteon 8 mg PO QHS 
Should be given 30 minutes before bedtime.  
8. Sarna Lotion 1 Appl TP QID:PRN Dry skin  
9. Sodium Chloride 1 gm PO BID 
Goal normonatremia, wean as tolerated.  
10. Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
- traumatic brain injury with multiple areas of acute 
extra-axial, subarachnoid, intraparenchymal, and 
intraventricular hemorrhage with cerebral compression
- multiple skull and facial fractures
- external hydrocephalus 
- left clavicular fracture
- multiple rib fractures
- pulmonary contusion
- hemothorax
- nonocclusive right brachial, basilic thrombus
- occlusive right cephalic thrombus
- Clostridium difficile colitis 

 
Discharge Condition:
Mental Status: Confused, always.
Level of Consciousness: Lethargic, but arousable.
Activity Status: Out of bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Surgery:
 You underwent a surgery called a craniectomy. A portion of 
your skull was removed to allow your brain to swell. 
 You also underwent surgery to have your skull bone (or an 
artificial bone) placed back on. 
 Please keep your sutures and staples along your incision dry 
until they are removed.
 It is best to keep your incision open to air but it is ok to 
cover it when outside. 
 Call your surgeon if there are any signs of infection like 
fever, redness, or drainage. 

Activity:
 We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
 You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
 No driving while taking any narcotic or sedating medication. 
 If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
 No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for six months. 

Medications:
 Please do NOT take any blood thinning medication (aspirin, 
Coumadin, ibuprofen, Plavix) until cleared by the neurosurgeon. 
 You may use acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
 You may have difficulty paying attention, concentrating, and 
remembering new information.
 Emotional and/or behavioral difficulties are common. 
 Feeling more tired and restlessness, irritability, and mood 
swings are also common.
 You may also experience some postoperative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery. You may apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worst in the morning after 
laying flat from sleeping but should decrease when up. 
 You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
 Constipation is common. Be sure to drink plenty of fluids and 
eat a high fiber diet. If you are taking narcotics (prescription 
pain medications), try an over the counter stool softener.

Headaches:
 Headache is one of the most common symptoms after a traumatic 
brain injury. 
 Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, if you have increased 
sleepiness, if you develop arm or leg weakness, and/or if you 
have nausea or vomiting with a headache. 
 Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
 There are other things that can be done to help with your 
headaches, including avoiding caffeine, getting enough sleep, 
daily exercise, relaxation/meditation, massage, acupuncture, and 
ice or heat packs. 

More Information About Traumatic Brain Injuries:
 You were given information about headaches after a traumatic 
brain injury and the impact that a traumatic brain injury can 
have on your family.
 If you would like to read more about other topics such as 
fatigue, balance, cognitive problems, sleeping, seizures, 
driving, emotional problems, depression, sexuality after a 
traumatic brain injury, and/or return to school or work, please 
ask our staff for this information or visit 
___.

When To Call Your Doctor At ___:
 Severe pain, redness, swelling, or drainage from the incision 
site. 
 Fever greater than 101.5 degrees Fahrenheit
 Nausea and/or vomiting
 Extreme sleepiness and not being able to stay awake
 Severe headaches not relieved by pain relievers
 Seizures
 Any new problems with your vision or ability to speak
 Weakness or changes in sensation in your face, arms, or legs

Call ___ And Go To The Nearest Emergency Department If You 
Experience Any Of The Following:
 Sudden numbness or weakness in the face, arms, or legs
 Sudden confusion or trouble speaking or understanding
 Sudden trouble walking, dizziness, or loss of balance or 
coordination
 Sudden severe headaches with no known reason
 
Followup Instructions:
___